US08981104B2
rac-Ethyl 5-{(5-ethoxy-5-oxopentyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate
Under nitrogen, 23.23 g (0.05 mol) of ethyl 5-{(2-cyano-5,6,7,8-tetrahydroquinolin-5-yl)[2-(2-methoxyphenyl)ethyl]amino}pentanoate were taken up in 175 ml of hydrobromic acid (48% in water). The syrup-like solution was then heated to 120° C. and stirred at this temperature for 5 hours. The clear yellow reaction solution was then cooled to room temperature and concentrated to dryness. Subsequently, 350 ml of anhydrous ethanol and 25 ml of a 4 N solution of hydrogen chloride in dioxane were added to the residue obtained, and the mixture was stirred at 65° C. overnight. The reaction mixture was then concentrated on a rotary evaporator to about 50 ml, 550 ml of saturated aqueous sodium bicarbonate solution were carefully added and the mixture was extracted three times with in each case 150 ml of ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated to dryness. The residue obtained (brown oil) was dissolved in 100 ml of ethyl acetate, 65 g of silica gel were added and the mixture was once more concentrated to dryness. The residue was then purified by column chromatography on silica gel (metal column 58×8 cm, 1600 ml of silica gel; mobile phase: ethyl acetate/petroleum ether 1:5, after about 3 liters 1:4, after about 3.5 liters 1:3). This gave 9.43 g (0.02 mol, 38% of theory) of the target compound as a colourless oil.

reactant | ethyl 5-{(2-cyano-5,6,7,8-tetrahydroquinolin-5-yl)[2-(2-methoxyphenyl)ethyl]amino}pentanoate | 0.05 mol, 23.23 g | C(#N)C1=NC=2CCCC(C2C=C1)N(CCCCC(=O)OCC)CCC1=C(C=CC=C1)OC | C26H33N3O3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrobromic acid | 175 ml | Br | BrH
product | rac-Ethyl 5-{(5-ethoxy-5-oxopentyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)OC(CCCCN(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)O)=O | C27H36N2O5
